US08486967B2
c) tert-Butyl 3-(6-methyl-2-(1-(6-methylpyrimidin-4-yl)piperidin-4-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl)benzylcarbamate
A solution of 1-(6-methylpyrimidin-4-yl)piperidin-4-amine (52.5 mg, 273 μmol), tert-butyl 3-(2-bromo-6-methyl-[1,2,4]triazolo[1,5-a]pyridin-8-yl)benzylcarbamate (114 mg, 273 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (12.6 mg, 21.9 μmol), tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (11.3 mg, 10.9 μmol) and sodium phenoxide (50.1 mg, 410 μmol) in dioxane (3 mL) was degassed three times and reacted at 140° C. under an atmosphere of nitrogen in a microwave oven for 1 hour. The title compound was obtained a light yellow solid (46 mg, 32%) after column chromatography on silica gel using a gradient from methylenechloride to a mixture of methylenechlorid/methanol 19:1 (v/v) as eluent.

reactant | 1-(6-methylpyrimidin-4-yl)piperidin-4-amine | 273 μmol, 52.5 mg | CC1=CC(=NC=N1)N1CCC(CC1)N | C10H16N4
reactant | tert-butyl 3-(2-bromo-6-methyl-[1,2,4]triazolo[1,5-a]pyridin-8-yl)benzylcarbamate | 273 mmol, 114 mg | BrC1=NN2C(C(=CC(=C2)C)C=2C=C(CNC(OC(C)(C)C)=O)C=CC2)=N1 | C19H21BrN4O2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 21.9 μmol, 12.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | sodium phenoxide | 410 μmol, 50.1 mg | [O-]C1=CC=CC=C1.[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 10.9 μmol, 11.3 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | tert-Butyl 3-(6-methyl-2-(1-(6-methylpyrimidin-4-yl)piperidin-4-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl)benzylcarbamate | CC=1C=C(C=2N(C1)N=C(N2)NC2CCN(CC2)C2=NC=NC(=C2)C)C=2C=C(CNC(OC(C)(C)C)=O)C=CC2 | C29H36N8O2
